US04824848
3-Methylamino-7-(3-pyridylmethyl)-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 6-hydrazino-1-(3-pyridylmethyl)-3-propyluracil (0.7 g, 2.66 mM) and methyl isothiocyanate (0.7 ml, 10.3 mM) in DMF (10 ml) was heated at 90° C. for 14 hours and then at 110° C. for 14 hours. To the reaction solution was added 50% methanol (10 ml) and the mixture was cooled to give crystals. Recrystallization from DMF/ethanol/water afforded colorless needles (0.5 g, 60%), m.p. >300° C.

reactant | 6-hydrazino-1-(3-pyridylmethyl)-3-propyluracil | 2.66 mM, 0.7 g | N(N)C1=CC(N(C(N1CC=1C=NC=CC1)=O)CCC)=O | C13H17N5O2
reactant | methyl isothiocyanate | 10.3 mM, 0.7 ml | CN=C=S | C2H3NS
reactant | methanol | 10 ml | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Methylamino-7-(3-pyridylmethyl)-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | CNC1=NNC=2N(C(N(C(C21)=O)CCC)=O)CC=2C=NC=CC2 | C15H18N6O2
